US04072498
Following the procedure of Example 108, but substituting N,N,α,α-tetramethyl-3-phenylpyrazole-1-acetamide for N,N,α,5-tetramethyl-3-phenylpyrazole-1-acetamide, tert-butyl hypochlorite for bromine, and carbon tetrachloride for acetic acid as the reaction solvent, there was obtained 4-chloro-N,N,α,α-tetramethyl-3-phenylpyrazole-1-acetamide having a melting point of 117°-119° C.

reactant | N,N,α,5-tetramethyl-3-phenylpyrazole-1-acetamide | CN(C(C(N1N=C(C=C1C)C1=CC=CC=C1)C)=O)C | C15H19N3O
reactant | tert-butyl hypochlorite | ClOC(C)(C)C | C4H9ClO
reactant | bromine | BrBr | Br2
reactant | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-chloro-N,N,α,α-tetramethyl-3-phenylpyrazole-1-acetamide | ClC=1C(=NN(C1)C(C(=O)N(C)C)(C)C)C1=CC=CC=C1 | C15H18ClN3O
